* extracted by klt extract --deck sky130

* cell bandgap_core_routed
* pin D1
* pin D2
* pin GDRV
* pin PN
* pin TAIL
* pin VA
* pin VB
* pin VBQ
* pin VDD
* pin VOUT
* pin VSS
.SUBCKT bandgap_core_routed D1 D2 GDRV PN TAIL VA VB VBQ VDD VOUT VSS
* device instance $1 r0 *1 233.14,51.27 nfet
M$1 VSS D1 D1 VSS nfet L=20U W=8U AS=3.36P AD=3.36P PS=16.84U PD=16.84U
* device instance $2 r0 *1 254.38,51.27 nfet
M$2 VSS D2 D2 VSS nfet L=20U W=8U AS=3.36P AD=3.36P PS=16.84U PD=16.84U
* device instance $3 r0 *1 275.62,51.27 nfet
M$3 VSS D1 D1 VSS nfet L=20U W=8U AS=3.36P AD=3.36P PS=16.84U PD=16.84U
* device instance $4 r0 *1 296.86,51.27 nfet
M$4 VSS D2 D2 VSS nfet L=20U W=8U AS=3.36P AD=3.36P PS=16.84U PD=16.84U
* device instance $5 r0 *1 233.14,60.09 nfet
M$5 VSS D2 D2 VSS nfet L=20U W=8U AS=3.36P AD=3.36P PS=16.84U PD=16.84U
* device instance $6 r0 *1 254.38,60.09 nfet
M$6 VSS D1 D1 VSS nfet L=20U W=8U AS=3.36P AD=3.36P PS=16.84U PD=16.84U
* device instance $7 r0 *1 275.62,60.09 nfet
M$7 VSS D2 D2 VSS nfet L=20U W=8U AS=3.36P AD=3.36P PS=16.84U PD=16.84U
* device instance $8 r0 *1 296.86,60.09 nfet
M$8 VSS D1 D1 VSS nfet L=20U W=8U AS=3.36P AD=3.36P PS=16.84U PD=16.84U
* device instance $9 r0 *1 216.07,104.5 nfet
M$9 VSS D2 PN VSS nfet L=20U W=8U AS=3.36P AD=3.36P PS=16.84U PD=16.84U
* device instance $10 r0 *1 237.31,104.5 nfet
M$10 VSS D1 GDRV VSS nfet L=20U W=8U AS=3.36P AD=3.36P PS=16.84U PD=16.84U
* device instance $11 r0 *1 258.55,104.5 nfet
M$11 VSS D2 PN VSS nfet L=20U W=8U AS=3.36P AD=3.36P PS=16.84U PD=16.84U
* device instance $12 r0 *1 279.79,104.5 nfet
M$12 VSS D1 GDRV VSS nfet L=20U W=8U AS=3.36P AD=3.36P PS=16.84U PD=16.84U
* device instance $13 r0 *1 216.07,113.32 nfet
M$13 VSS D1 GDRV VSS nfet L=20U W=8U AS=3.36P AD=3.36P PS=16.84U PD=16.84U
* device instance $14 r0 *1 237.31,113.32 nfet
M$14 VSS D2 PN VSS nfet L=20U W=8U AS=3.36P AD=3.36P PS=16.84U PD=16.84U
* device instance $15 r0 *1 258.55,113.32 nfet
M$15 VSS D1 GDRV VSS nfet L=20U W=8U AS=3.36P AD=3.36P PS=16.84U PD=16.84U
* device instance $16 r0 *1 279.79,113.32 nfet
M$16 VSS D2 PN VSS nfet L=20U W=8U AS=3.36P AD=3.36P PS=16.84U PD=16.84U
* device instance $17 r0 *1 30.71,45.27 pfet
M$17 D2 VA TAIL VDD pfet L=10U W=20U AS=8.4P AD=8.4P PS=40.84U PD=40.84U
* device instance $18 r0 *1 41.95,45.27 pfet
M$18 D1 VB TAIL VDD pfet L=10U W=20U AS=8.4P AD=8.4P PS=40.84U PD=40.84U
* device instance $19 r0 *1 53.19,45.27 pfet
M$19 D2 VA TAIL VDD pfet L=10U W=20U AS=8.4P AD=8.4P PS=40.84U PD=40.84U
* device instance $20 r0 *1 64.43,45.27 pfet
M$20 D1 VB TAIL VDD pfet L=10U W=20U AS=8.4P AD=8.4P PS=40.84U PD=40.84U
* device instance $21 r0 *1 75.67,45.27 pfet
M$21 D2 VA TAIL VDD pfet L=10U W=20U AS=8.4P AD=8.4P PS=40.84U PD=40.84U
* device instance $22 r0 *1 86.91,45.27 pfet
M$22 D1 VB TAIL VDD pfet L=10U W=20U AS=8.4P AD=8.4P PS=40.84U PD=40.84U
* device instance $23 r0 *1 98.15,45.27 pfet
M$23 D2 VA TAIL VDD pfet L=10U W=20U AS=8.4P AD=8.4P PS=40.84U PD=40.84U
* device instance $24 r0 *1 109.39,45.27 pfet
M$24 D1 VB TAIL VDD pfet L=10U W=20U AS=8.4P AD=8.4P PS=40.84U PD=40.84U
* device instance $25 r0 *1 120.63,45.27 pfet
M$25 D2 VA TAIL VDD pfet L=10U W=20U AS=8.4P AD=8.4P PS=40.84U PD=40.84U
* device instance $26 r0 *1 131.87,45.27 pfet
M$26 D1 VB TAIL VDD pfet L=10U W=20U AS=8.4P AD=8.4P PS=40.84U PD=40.84U
* device instance $27 r0 *1 143.11,45.27 pfet
M$27 D2 VA TAIL VDD pfet L=10U W=20U AS=8.4P AD=8.4P PS=40.84U PD=40.84U
* device instance $28 r0 *1 154.35,45.27 pfet
M$28 D1 VB TAIL VDD pfet L=10U W=20U AS=8.4P AD=8.4P PS=40.84U PD=40.84U
* device instance $29 r0 *1 165.59,45.27 pfet
M$29 D2 VA TAIL VDD pfet L=10U W=20U AS=8.4P AD=8.4P PS=40.84U PD=40.84U
* device instance $30 r0 *1 176.83,45.27 pfet
M$30 D1 VB TAIL VDD pfet L=10U W=20U AS=8.4P AD=8.4P PS=40.84U PD=40.84U
* device instance $31 r0 *1 188.07,45.27 pfet
M$31 D2 VA TAIL VDD pfet L=10U W=20U AS=8.4P AD=8.4P PS=40.84U PD=40.84U
* device instance $32 r0 *1 199.31,45.27 pfet
M$32 D1 VB TAIL VDD pfet L=10U W=20U AS=8.4P AD=8.4P PS=40.84U PD=40.84U
* device instance $33 r0 *1 2.49,51.27 pfet
M$33 VOUT GDRV VDD VDD pfet L=2U W=8U AS=3.36P AD=3.36P PS=16.84U PD=16.84U
* device instance $34 r0 *1 2.49,60.09 pfet
M$34 TAIL GDRV VDD VDD pfet L=2U W=8U AS=3.36P AD=3.36P PS=16.84U PD=16.84U
* device instance $35 r0 *1 5.73,60.09 pfet
M$35 VOUT GDRV VDD VDD pfet L=2U W=8U AS=3.36P AD=3.36P PS=16.84U PD=16.84U
* device instance $36 r0 *1 5.73,51.27 pfet
M$36 TAIL GDRV VDD VDD pfet L=2U W=8U AS=3.36P AD=3.36P PS=16.84U PD=16.84U
* device instance $37 r0 *1 30.71,66.09 pfet
M$37 D1 VB TAIL VDD pfet L=10U W=20U AS=8.4P AD=8.4P PS=40.84U PD=40.84U
* device instance $38 r0 *1 41.95,66.09 pfet
M$38 D2 VA TAIL VDD pfet L=10U W=20U AS=8.4P AD=8.4P PS=40.84U PD=40.84U
* device instance $39 r0 *1 53.19,66.09 pfet
M$39 D1 VB TAIL VDD pfet L=10U W=20U AS=8.4P AD=8.4P PS=40.84U PD=40.84U
* device instance $40 r0 *1 64.43,66.09 pfet
M$40 D2 VA TAIL VDD pfet L=10U W=20U AS=8.4P AD=8.4P PS=40.84U PD=40.84U
* device instance $41 r0 *1 75.67,66.09 pfet
M$41 D1 VB TAIL VDD pfet L=10U W=20U AS=8.4P AD=8.4P PS=40.84U PD=40.84U
* device instance $42 r0 *1 86.91,66.09 pfet
M$42 D2 VA TAIL VDD pfet L=10U W=20U AS=8.4P AD=8.4P PS=40.84U PD=40.84U
* device instance $43 r0 *1 98.15,66.09 pfet
M$43 D1 VB TAIL VDD pfet L=10U W=20U AS=8.4P AD=8.4P PS=40.84U PD=40.84U
* device instance $44 r0 *1 109.39,66.09 pfet
M$44 D2 VA TAIL VDD pfet L=10U W=20U AS=8.4P AD=8.4P PS=40.84U PD=40.84U
* device instance $45 r0 *1 120.63,66.09 pfet
M$45 D1 VB TAIL VDD pfet L=10U W=20U AS=8.4P AD=8.4P PS=40.84U PD=40.84U
* device instance $46 r0 *1 131.87,66.09 pfet
M$46 D2 VA TAIL VDD pfet L=10U W=20U AS=8.4P AD=8.4P PS=40.84U PD=40.84U
* device instance $47 r0 *1 143.11,66.09 pfet
M$47 D1 VB TAIL VDD pfet L=10U W=20U AS=8.4P AD=8.4P PS=40.84U PD=40.84U
* device instance $48 r0 *1 154.35,66.09 pfet
M$48 D2 VA TAIL VDD pfet L=10U W=20U AS=8.4P AD=8.4P PS=40.84U PD=40.84U
* device instance $49 r0 *1 165.59,66.09 pfet
M$49 D1 VB TAIL VDD pfet L=10U W=20U AS=8.4P AD=8.4P PS=40.84U PD=40.84U
* device instance $50 r0 *1 176.83,66.09 pfet
M$50 D2 VA TAIL VDD pfet L=10U W=20U AS=8.4P AD=8.4P PS=40.84U PD=40.84U
* device instance $51 r0 *1 188.07,66.09 pfet
M$51 D1 VB TAIL VDD pfet L=10U W=20U AS=8.4P AD=8.4P PS=40.84U PD=40.84U
* device instance $52 r0 *1 199.31,66.09 pfet
M$52 D2 VA TAIL VDD pfet L=10U W=20U AS=8.4P AD=8.4P PS=40.84U PD=40.84U
* device instance $53 r0 *1 28.56,112.32 pfet
M$53 GDRV PN VDD VDD pfet L=20U W=6U AS=2.52P AD=2.52P PS=12.84U PD=12.84U
* device instance $54 r0 *1 28.56,105.5 pfet
M$54 PN PN VDD VDD pfet L=20U W=6U AS=2.52P AD=2.52P PS=12.84U PD=12.84U
* device instance $55 r0 *1 49.8,105.5 pfet
M$55 GDRV PN VDD VDD pfet L=20U W=6U AS=2.52P AD=2.52P PS=12.84U PD=12.84U
* device instance $56 r0 *1 49.8,112.32 pfet
M$56 PN PN VDD VDD pfet L=20U W=6U AS=2.52P AD=2.52P PS=12.84U PD=12.84U
* device instance $57 r0 *1 71.04,112.32 pfet
M$57 GDRV PN VDD VDD pfet L=20U W=6U AS=2.52P AD=2.52P PS=12.84U PD=12.84U
* device instance $58 r0 *1 71.04,105.5 pfet
M$58 PN PN VDD VDD pfet L=20U W=6U AS=2.52P AD=2.52P PS=12.84U PD=12.84U
* device instance $59 r0 *1 92.28,105.5 pfet
M$59 GDRV PN VDD VDD pfet L=20U W=6U AS=2.52P AD=2.52P PS=12.84U PD=12.84U
* device instance $60 r0 *1 92.28,112.32 pfet
M$60 PN PN VDD VDD pfet L=20U W=6U AS=2.52P AD=2.52P PS=12.84U PD=12.84U
* device instance $61 r0 *1 113.52,105.5 pfet
M$61 PN PN VDD VDD pfet L=20U W=6U AS=2.52P AD=2.52P PS=12.84U PD=12.84U
* device instance $62 r0 *1 113.52,112.32 pfet
M$62 GDRV PN VDD VDD pfet L=20U W=6U AS=2.52P AD=2.52P PS=12.84U PD=12.84U
* device instance $63 r0 *1 134.76,112.32 pfet
M$63 PN PN VDD VDD pfet L=20U W=6U AS=2.52P AD=2.52P PS=12.84U PD=12.84U
* device instance $64 r0 *1 134.76,105.5 pfet
M$64 GDRV PN VDD VDD pfet L=20U W=6U AS=2.52P AD=2.52P PS=12.84U PD=12.84U
* device instance $65 r0 *1 156,112.32 pfet
M$65 GDRV PN VDD VDD pfet L=20U W=6U AS=2.52P AD=2.52P PS=12.84U PD=12.84U
* device instance $66 r0 *1 156,105.5 pfet
M$66 PN PN VDD VDD pfet L=20U W=6U AS=2.52P AD=2.52P PS=12.84U PD=12.84U
* device instance $67 r0 *1 177.24,112.32 pfet
M$67 PN PN VDD VDD pfet L=20U W=6U AS=2.52P AD=2.52P PS=12.84U PD=12.84U
* device instance $68 r0 *1 177.24,105.5 pfet
M$68 GDRV PN VDD VDD pfet L=20U W=6U AS=2.52P AD=2.52P PS=12.84U PD=12.84U
* device instance $69 r0 *1 7.67,1.31 pnp
Q$69 VSS VSS VA pnp AE=0.4624P PE=2.72U AB=0.7744P PB=3.52U AC=0.7744P PC=3.52U
+ NE=1
* device instance $70 r0 *1 9.57,1.31 pnp
Q$70 VSS VSS VA pnp AE=0.4624P PE=2.72U AB=0.7744P PB=3.52U AC=0.7744P PC=3.52U
+ NE=1
* device instance $71 r0 *1 11.47,1.31 pnp
Q$71 VSS VSS VA pnp AE=0.4624P PE=2.72U AB=0.7744P PB=3.52U AC=0.7744P PC=3.52U
+ NE=1
* device instance $72 r0 *1 13.37,1.31 pnp
Q$72 VSS VSS VA pnp AE=0.4624P PE=2.72U AB=0.7744P PB=3.52U AC=0.7744P PC=3.52U
+ NE=1
* device instance $73 r0 *1 7.67,2.39 pnp
Q$73 VSS VSS VA pnp AE=0.4624P PE=2.72U AB=0.7744P PB=3.52U AC=0.7744P PC=3.52U
+ NE=1
* device instance $74 r0 *1 9.57,2.39 pnp
Q$74 VSS VSS VA pnp AE=0.4624P PE=2.72U AB=0.7744P PB=3.52U AC=0.7744P PC=3.52U
+ NE=1
* device instance $75 r0 *1 11.47,2.39 pnp
Q$75 VSS VSS VA pnp AE=0.4624P PE=2.72U AB=0.7744P PB=3.52U AC=0.7744P PC=3.52U
+ NE=1
* device instance $76 r0 *1 13.37,2.39 pnp
Q$76 VSS VSS VA pnp AE=0.4624P PE=2.72U AB=0.7744P PB=3.52U AC=0.7744P PC=3.52U
+ NE=1
* device instance $77 r0 *1 281.77,2.67 pnp
Q$77 VSS VSS VBQ pnp AE=11.56P PE=13.6U AB=12.96P PB=14.4U AC=12.96P PC=14.4U
+ NE=1
* device instance $78 r0 *1 286.39,2.67 pnp
Q$78 VSS VSS VBQ pnp AE=11.56P PE=13.6U AB=12.96P PB=14.4U AC=12.96P PC=14.4U
+ NE=1
* device instance $79 r0 *1 291.01,2.67 pnp
Q$79 VSS VSS VBQ pnp AE=11.56P PE=13.6U AB=12.96P PB=14.4U AC=12.96P PC=14.4U
+ NE=1
* device instance $80 r0 *1 295.63,2.67 pnp
Q$80 VSS VSS VBQ pnp AE=11.56P PE=13.6U AB=12.96P PB=14.4U AC=12.96P PC=14.4U
+ NE=1
* device instance $81 r0 *1 281.77,6.47 pnp
Q$81 VSS VSS VBQ pnp AE=11.56P PE=13.6U AB=12.96P PB=14.4U AC=12.96P PC=14.4U
+ NE=1
* device instance $82 r0 *1 286.39,6.47 pnp
Q$82 VSS VSS VBQ pnp AE=11.56P PE=13.6U AB=12.96P PB=14.4U AC=12.96P PC=14.4U
+ NE=1
* device instance $83 r0 *1 291.01,6.47 pnp
Q$83 VSS VSS VBQ pnp AE=11.56P PE=13.6U AB=12.96P PB=14.4U AC=12.96P PC=14.4U
+ NE=1
* device instance $84 r0 *1 295.63,6.47 pnp
Q$84 VSS VSS VBQ pnp AE=11.56P PE=13.6U AB=12.96P PB=14.4U AC=12.96P PC=14.4U
+ NE=1
* device instance $85 r0 *1 49,0.5 res_high_po
R$85 VOUT \$6 VSS 1599 res_high_po
* device instance $86 r0 *1 55.34,0.5 res_high_po
R$86 VOUT \$7 VSS 1599 res_high_po
* device instance $87 r0 *1 61.68,0.5 res_high_po
R$87 \$6 \$8 VSS 1599 res_high_po
* device instance $88 r0 *1 68.02,0.5 res_high_po
R$88 \$7 \$9 VSS 1599 res_high_po
* device instance $89 r0 *1 74.36,0.5 res_high_po
R$89 \$8 \$10 VSS 1599 res_high_po
* device instance $90 r0 *1 80.7,0.5 res_high_po
R$90 \$9 \$11 VSS 1599 res_high_po
* device instance $91 r0 *1 87.04,0.5 res_high_po
R$91 \$10 \$12 VSS 1599 res_high_po
* device instance $92 r0 *1 93.38,0.5 res_high_po
R$92 \$11 \$13 VSS 1599 res_high_po
* device instance $93 r0 *1 99.72,0.5 res_high_po
R$93 \$12 \$14 VSS 1599 res_high_po
* device instance $94 r0 *1 106.06,0.5 res_high_po
R$94 \$13 \$15 VSS 1599 res_high_po
* device instance $95 r0 *1 112.4,0.5 res_high_po
R$95 \$14 \$16 VSS 1599 res_high_po
* device instance $96 r0 *1 118.74,0.5 res_high_po
R$96 \$15 \$17 VSS 1599 res_high_po
* device instance $97 r0 *1 49,3.3 res_high_po
R$97 \$22 \$39 VSS 1599 res_high_po
* device instance $98 r0 *1 49,1.9 res_high_po
R$98 \$23 \$24 VSS 1599 res_high_po
* device instance $99 r0 *1 55.34,3.3 res_high_po
R$99 \$23 \$40 VSS 1599 res_high_po
* device instance $100 r0 *1 55.34,1.9 res_high_po
R$100 \$22 \$25 VSS 1599 res_high_po
* device instance $101 r0 *1 61.68,1.9 res_high_po
R$101 \$24 \$26 VSS 1599 res_high_po
* device instance $102 r0 *1 61.68,3.3 res_high_po
R$102 \$39 \$41 VSS 1599 res_high_po
* device instance $103 r0 *1 68.02,1.9 res_high_po
R$103 \$25 \$27 VSS 1599 res_high_po
* device instance $104 r0 *1 68.02,3.3 res_high_po
R$104 \$40 \$42 VSS 1599 res_high_po
* device instance $105 r0 *1 74.36,3.3 res_high_po
R$105 \$41 \$43 VSS 1599 res_high_po
* device instance $106 r0 *1 74.36,1.9 res_high_po
R$106 \$26 \$28 VSS 1599 res_high_po
* device instance $107 r0 *1 80.7,3.3 res_high_po
R$107 \$42 \$44 VSS 1599 res_high_po
* device instance $108 r0 *1 80.7,1.9 res_high_po
R$108 \$27 \$29 VSS 1599 res_high_po
* device instance $109 r0 *1 87.04,1.9 res_high_po
R$109 \$28 \$30 VSS 1599 res_high_po
* device instance $110 r0 *1 87.04,3.3 res_high_po
R$110 \$43 \$45 VSS 1599 res_high_po
* device instance $111 r0 *1 93.38,1.9 res_high_po
R$111 \$29 \$31 VSS 1599 res_high_po
* device instance $112 r0 *1 93.38,3.3 res_high_po
R$112 \$44 \$46 VSS 1599 res_high_po
* device instance $113 r0 *1 99.72,1.9 res_high_po
R$113 \$30 \$32 VSS 1599 res_high_po
* device instance $114 r0 *1 99.72,3.3 res_high_po
R$114 \$45 \$47 VSS 1599 res_high_po
* device instance $115 r0 *1 106.06,3.3 res_high_po
R$115 \$46 \$48 VSS 1599 res_high_po
* device instance $116 r0 *1 106.06,1.9 res_high_po
R$116 \$31 \$33 VSS 1599 res_high_po
* device instance $117 r0 *1 112.4,1.9 res_high_po
R$117 \$32 \$17 VSS 1599 res_high_po
* device instance $118 r0 *1 112.4,3.3 res_high_po
R$118 \$47 \$49 VSS 1599 res_high_po
* device instance $119 r0 *1 118.74,3.3 res_high_po
R$119 \$48 \$50 VSS 1599 res_high_po
* device instance $120 r0 *1 118.74,1.9 res_high_po
R$120 \$33 \$16 VSS 1599 res_high_po
* device instance $121 r0 *1 49,4.7 res_high_po
R$121 \$52 \$53 VSS 1599 res_high_po
* device instance $122 r0 *1 55.34,4.7 res_high_po
R$122 \$51 \$54 VSS 1599 res_high_po
* device instance $123 r0 *1 61.68,4.7 res_high_po
R$123 \$53 \$55 VSS 1599 res_high_po
* device instance $124 r0 *1 68.02,4.7 res_high_po
R$124 \$54 \$56 VSS 1599 res_high_po
* device instance $125 r0 *1 74.36,4.7 res_high_po
R$125 \$55 \$57 VSS 1599 res_high_po
* device instance $126 r0 *1 80.7,4.7 res_high_po
R$126 \$56 \$58 VSS 1599 res_high_po
* device instance $127 r0 *1 87.04,4.7 res_high_po
R$127 \$57 \$59 VSS 1599 res_high_po
* device instance $128 r0 *1 93.38,4.7 res_high_po
R$128 \$58 \$60 VSS 1599 res_high_po
* device instance $129 r0 *1 99.72,4.7 res_high_po
R$129 \$59 \$61 VSS 1599 res_high_po
* device instance $130 r0 *1 106.06,4.7 res_high_po
R$130 \$60 \$62 VSS 1599 res_high_po
* device instance $131 r0 *1 112.4,4.7 res_high_po
R$131 \$61 \$50 VSS 1599 res_high_po
* device instance $132 r0 *1 118.74,4.7 res_high_po
R$132 \$62 \$49 VSS 1599 res_high_po
* device instance $133 r0 *1 49,6.1 res_high_po
R$133 \$51 \$63 VSS 1599 res_high_po
* device instance $134 r0 *1 55.34,6.1 res_high_po
R$134 \$52 \$64 VSS 1599 res_high_po
* device instance $135 r0 *1 61.68,6.1 res_high_po
R$135 \$63 \$65 VSS 1599 res_high_po
* device instance $136 r0 *1 68.02,6.1 res_high_po
R$136 \$64 \$66 VSS 1599 res_high_po
* device instance $137 r0 *1 74.36,6.1 res_high_po
R$137 \$65 \$67 VSS 1599 res_high_po
* device instance $138 r0 *1 80.7,6.1 res_high_po
R$138 \$66 \$68 VSS 1599 res_high_po
* device instance $139 r0 *1 87.04,6.1 res_high_po
R$139 \$67 \$69 VSS 1599 res_high_po
* device instance $140 r0 *1 93.38,6.1 res_high_po
R$140 \$68 \$70 VSS 1599 res_high_po
* device instance $141 r0 *1 99.72,6.1 res_high_po
R$141 \$69 \$71 VSS 1599 res_high_po
* device instance $142 r0 *1 106.06,6.1 res_high_po
R$142 \$70 \$72 VSS 1599 res_high_po
* device instance $143 r0 *1 112.4,6.1 res_high_po
R$143 \$71 \$73 VSS 1599 res_high_po
* device instance $144 r0 *1 118.74,6.1 res_high_po
R$144 \$72 \$74 VSS 1599 res_high_po
* device instance $145 r0 *1 49,7.5 res_high_po
R$145 \$78 \$79 VSS 1599 res_high_po
* device instance $146 r0 *1 55.34,7.5 res_high_po
R$146 \$77 \$80 VSS 1599 res_high_po
* device instance $147 r0 *1 61.68,7.5 res_high_po
R$147 \$79 \$81 VSS 1599 res_high_po
* device instance $148 r0 *1 68.02,7.5 res_high_po
R$148 \$80 \$82 VSS 1599 res_high_po
* device instance $149 r0 *1 74.36,7.5 res_high_po
R$149 \$81 \$83 VSS 1599 res_high_po
* device instance $150 r0 *1 80.7,7.5 res_high_po
R$150 \$82 \$84 VSS 1599 res_high_po
* device instance $151 r0 *1 87.04,7.5 res_high_po
R$151 \$83 \$85 VSS 1599 res_high_po
* device instance $152 r0 *1 93.38,7.5 res_high_po
R$152 \$84 \$86 VSS 1599 res_high_po
* device instance $153 r0 *1 99.72,7.5 res_high_po
R$153 \$85 \$87 VSS 1599 res_high_po
* device instance $154 r0 *1 106.06,7.5 res_high_po
R$154 \$86 \$88 VSS 1599 res_high_po
* device instance $155 r0 *1 112.4,7.5 res_high_po
R$155 \$87 \$74 VSS 1599 res_high_po
* device instance $156 r0 *1 118.74,7.5 res_high_po
R$156 \$88 \$73 VSS 1599 res_high_po
* device instance $157 r0 *1 155.94,7.5 res_high_po
R$157 \$89 \$92 VSS 319.8 res_high_po
* device instance $158 r0 *1 158.28,7.5 res_high_po
R$158 \$93 \$94 VSS 319.8 res_high_po
* device instance $159 r0 *1 160.62,7.5 res_high_po
R$159 \$92 \$95 VSS 319.8 res_high_po
* device instance $160 r0 *1 162.96,7.5 res_high_po
R$160 \$94 \$96 VSS 319.8 res_high_po
* device instance $161 r0 *1 165.3,7.5 res_high_po
R$161 \$95 \$97 VSS 319.8 res_high_po
* device instance $162 r0 *1 167.64,7.5 res_high_po
R$162 \$96 \$98 VSS 319.8 res_high_po
* device instance $163 r0 *1 169.98,7.5 res_high_po
R$163 \$97 \$99 VSS 319.8 res_high_po
* device instance $164 r0 *1 172.32,7.5 res_high_po
R$164 \$98 \$100 VSS 319.8 res_high_po
* device instance $165 r0 *1 49,10.3 res_high_po
R$165 \$131 \$132 VSS 1599 res_high_po
* device instance $166 r0 *1 49,8.9 res_high_po
R$166 \$77 \$101 VSS 1599 res_high_po
* device instance $167 r0 *1 55.34,8.9 res_high_po
R$167 \$78 \$102 VSS 1599 res_high_po
* device instance $168 r0 *1 55.34,10.3 res_high_po
R$168 \$121 \$122 VSS 1599 res_high_po
* device instance $169 r0 *1 61.68,8.9 res_high_po
R$169 \$101 \$103 VSS 1599 res_high_po
* device instance $170 r0 *1 61.68,10.3 res_high_po
R$170 \$132 \$133 VSS 1599 res_high_po
* device instance $171 r0 *1 68.02,10.3 res_high_po
R$171 \$122 \$123 VSS 1599 res_high_po
* device instance $172 r0 *1 68.02,8.9 res_high_po
R$172 \$102 \$104 VSS 1599 res_high_po
* device instance $173 r0 *1 74.36,10.3 res_high_po
R$173 \$133 \$134 VSS 1599 res_high_po
* device instance $174 r0 *1 74.36,8.9 res_high_po
R$174 \$103 \$105 VSS 1599 res_high_po
* device instance $175 r0 *1 80.7,8.9 res_high_po
R$175 \$104 \$106 VSS 1599 res_high_po
* device instance $176 r0 *1 80.7,10.3 res_high_po
R$176 \$123 \$124 VSS 1599 res_high_po
* device instance $177 r0 *1 87.04,8.9 res_high_po
R$177 \$105 \$107 VSS 1599 res_high_po
* device instance $178 r0 *1 87.04,10.3 res_high_po
R$178 \$134 \$135 VSS 1599 res_high_po
* device instance $179 r0 *1 93.38,8.9 res_high_po
R$179 \$106 \$108 VSS 1599 res_high_po
* device instance $180 r0 *1 93.38,10.3 res_high_po
R$180 \$124 \$125 VSS 1599 res_high_po
* device instance $181 r0 *1 99.72,8.9 res_high_po
R$181 \$107 \$109 VSS 1599 res_high_po
* device instance $182 r0 *1 99.72,10.3 res_high_po
R$182 \$135 \$136 VSS 1599 res_high_po
* device instance $183 r0 *1 106.06,10.3 res_high_po
R$183 \$125 \$126 VSS 1599 res_high_po
* device instance $184 r0 *1 106.06,8.9 res_high_po
R$184 \$108 \$110 VSS 1599 res_high_po
* device instance $185 r0 *1 112.4,8.9 res_high_po
R$185 \$109 \$111 VSS 1599 res_high_po
* device instance $186 r0 *1 112.4,10.3 res_high_po
R$186 \$136 \$112 VSS 1599 res_high_po
* device instance $187 r0 *1 118.74,8.9 res_high_po
R$187 \$110 \$112 VSS 1599 res_high_po
* device instance $188 r0 *1 118.74,10.3 res_high_po
R$188 \$126 \$111 VSS 1599 res_high_po
* device instance $189 r0 *1 155.94,8.9 res_high_po
R$189 \$114 \$115 VSS 319.8 res_high_po
* device instance $190 r0 *1 155.94,10.3 res_high_po
R$190 \$113 \$127 VSS 319.8 res_high_po
* device instance $191 r0 *1 158.28,8.9 res_high_po
R$191 \$113 \$116 VSS 319.8 res_high_po
* device instance $192 r0 *1 158.28,10.3 res_high_po
R$192 \$114 \$137 VSS 319.8 res_high_po
* device instance $193 r0 *1 160.62,10.3 res_high_po
R$193 \$127 \$128 VSS 319.8 res_high_po
* device instance $194 r0 *1 160.62,8.9 res_high_po
R$194 \$115 \$117 VSS 319.8 res_high_po
* device instance $195 r0 *1 162.96,10.3 res_high_po
R$195 \$137 \$138 VSS 319.8 res_high_po
* device instance $196 r0 *1 162.96,8.9 res_high_po
R$196 \$116 \$118 VSS 319.8 res_high_po
* device instance $197 r0 *1 165.3,8.9 res_high_po
R$197 \$117 \$119 VSS 319.8 res_high_po
* device instance $198 r0 *1 165.3,10.3 res_high_po
R$198 \$128 \$129 VSS 319.8 res_high_po
* device instance $199 r0 *1 167.64,10.3 res_high_po
R$199 \$138 \$139 VSS 319.8 res_high_po
* device instance $200 r0 *1 167.64,8.9 res_high_po
R$200 \$118 \$120 VSS 319.8 res_high_po
* device instance $201 r0 *1 169.98,10.3 res_high_po
R$201 \$129 \$130 VSS 319.8 res_high_po
* device instance $202 r0 *1 169.98,8.9 res_high_po
R$202 \$119 \$100 VSS 319.8 res_high_po
* device instance $203 r0 *1 172.32,10.3 res_high_po
R$203 \$139 \$140 VSS 319.8 res_high_po
* device instance $204 r0 *1 172.32,8.9 res_high_po
R$204 \$120 \$99 VSS 319.8 res_high_po
* device instance $205 r0 *1 49,11.7 res_high_po
R$205 \$121 \$141 VSS 1599 res_high_po
* device instance $206 r0 *1 55.34,11.7 res_high_po
R$206 \$131 \$142 VSS 1599 res_high_po
* device instance $207 r0 *1 61.68,11.7 res_high_po
R$207 \$141 \$143 VSS 1599 res_high_po
* device instance $208 r0 *1 68.02,11.7 res_high_po
R$208 \$142 \$144 VSS 1599 res_high_po
* device instance $209 r0 *1 74.36,11.7 res_high_po
R$209 \$143 \$145 VSS 1599 res_high_po
* device instance $210 r0 *1 80.7,11.7 res_high_po
R$210 \$144 \$146 VSS 1599 res_high_po
* device instance $211 r0 *1 87.04,11.7 res_high_po
R$211 \$145 \$147 VSS 1599 res_high_po
* device instance $212 r0 *1 93.38,11.7 res_high_po
R$212 \$146 \$148 VSS 1599 res_high_po
* device instance $213 r0 *1 99.72,11.7 res_high_po
R$213 \$147 \$149 VSS 1599 res_high_po
* device instance $214 r0 *1 106.06,11.7 res_high_po
R$214 \$148 \$150 VSS 1599 res_high_po
* device instance $215 r0 *1 112.4,11.7 res_high_po
R$215 \$149 \$89 VSS 1599 res_high_po
* device instance $216 r0 *1 118.74,11.7 res_high_po
R$216 \$150 \$93 VSS 1599 res_high_po
* device instance $217 r0 *1 155.94,11.7 res_high_po
R$217 VB \$155 VSS 319.8 res_high_po
* device instance $218 r0 *1 158.28,11.7 res_high_po
R$218 VA \$156 VSS 319.8 res_high_po
* device instance $219 r0 *1 160.62,11.7 res_high_po
R$219 \$155 \$157 VSS 319.8 res_high_po
* device instance $220 r0 *1 162.96,11.7 res_high_po
R$220 \$156 \$158 VSS 319.8 res_high_po
* device instance $221 r0 *1 165.3,11.7 res_high_po
R$221 \$157 \$159 VSS 319.8 res_high_po
* device instance $222 r0 *1 167.64,11.7 res_high_po
R$222 \$158 \$160 VSS 319.8 res_high_po
* device instance $223 r0 *1 169.98,11.7 res_high_po
R$223 \$159 \$140 VSS 319.8 res_high_po
* device instance $224 r0 *1 172.32,11.7 res_high_po
R$224 \$160 \$130 VSS 319.8 res_high_po
* device instance $225 r0 *1 204.84,11.7 res_high_po
R$225 VB \$163 VSS 1599 res_high_po
* device instance $226 r0 *1 211.18,11.7 res_high_po
R$226 \$163 \$164 VSS 1599 res_high_po
* device instance $227 r0 *1 217.52,11.7 res_high_po
R$227 \$164 \$165 VSS 1599 res_high_po
* device instance $228 r0 *1 223.86,11.7 res_high_po
R$228 \$165 \$166 VSS 1599 res_high_po
* device instance $229 r0 *1 230.2,11.7 res_high_po
R$229 \$166 \$167 VSS 1599 res_high_po
* device instance $230 r0 *1 236.54,11.7 res_high_po
R$230 \$167 \$168 VSS 1599 res_high_po
* device instance $231 r0 *1 242.88,11.7 res_high_po
R$231 \$168 VBQ VSS 1599 res_high_po
.ENDS bandgap_core_routed
